US07446102B2
(8S,11S,14S)-14-Amino-N-{(4S)-4-amino-6-[(2-aminoethyl)amino]-6-oxohexyl}-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide tetrahydrochloride
8 mg (0.010 mmol) of tert-butyl{3-[(8S,11S,14S)-8-[({(4S)-4-amino-6-[(2-aminoethyl)amino]-6-oxohexyl}amino)carbonyl]-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate bis(hydroacetate) (Example 206A) are added into 0.4 ml of a 4N solution of hydrogen in dioxane chloride and stirred at RT for 30 min. The reaction solution is concentrated, coevaporated with dichloromethane several times and dried under high vacuum.

reactant | tert-butyl{3-[(8S,11S,14S)-8-[({(4S)-4-amino-6-[(2-aminoethyl)amino]-6-oxohexyl}amino)carbonyl]-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate | 0.010 mmol, 8 mg | C(C)(C)(C)OC(NCCC[C@H]1C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C[C@@H](C(N1)=O)NC(=O)OC(C)(C)C)C3)O)=C2)O)C(=O)NCCC[C@@H](CC(=O)NCCN)N)=O)=O | C41H62N8O10
reactant | hydrogen | [H][H] | H2
reactant | dioxane chloride | [Cl-].O1CCOCC1
product | (8S,11S,14S)-14-Amino-N-{(4S)-4-amino-6-[(2-aminoethyl)amino]-6-oxohexyl}-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide tetrahydrochloride | Cl.Cl.Cl.Cl.N[C@@H]1C(N[C@H](C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C1)C3)O)=C2)O)C(=O)NCCC[C@@H](CC(=O)NCCN)N)=O)CCCN)=O | InChI=1S/C31H46N8O6.4ClH/c32-9-1-4-24-31(45)39-25(30(44)37-11-2-3-22(34)17-28(42)36-12-10-33)16-21-14-19(6-8-27(21)41)18-5-7-26(40)20(13-18)15-23(35)29(43)38-24;;;;/h5-8,13-14,22-25,40-41H,1-4,9-12,15-17,32-35H2,(H,36,42)(H,37,44)(H,38,43)(H,39,45);4*1H/t22-,23-,24-,25-;;;;/m0..../s1
